US04021461
To a suspension of 21 grams of methoxymethyltriphenylphosphonium chloride in 200 ml. of absolute ether is added under nitrogen at room temperature a solution of 60 mmoles of phenyllithium in ether. After about 10 minutes, the mixture is cooled to -30° and 6 grams of 2,5-dimethylhexan-1-al in ether is added slowly. After about 12 hours at room temperature, the mixture is filtered and the filtrate evaporated. The concentrate is dissolved in aqueous tetrahydrofuran containing a small amount of dilute hydrochloric acid and stirred at room temperature for about 48 hours. The mixture is worked up in ether to yield 3,6-dimethylheptan-1-al which is purified by chromatography.

reactant | methoxymethyltriphenylphosphonium chloride | 21 grams | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | phenyllithium | 60 mmoles | C1(=CC=CC=C1)[Li]
reactant | 2,5-dimethylhexan-1-al | 6 grams | CC(C=O)CCC(C)C | C8H16O
solvent | ether | CCOCC | C4H10O
product | 3,6-dimethylheptan-1-al | CC(CC=O)CCC(C)C | C9H18O
